US05364849
2-{1- [4-(2-Methoxyphenyl)piperazinyl]methyl}-3-benzene-propanoic acid
2-(Phenylmethyl)propenoic acid (Mannich and Ganz, Chem. Ber., 1922, 55, 3486) (2.00 g, 12.35 mmol) and 1-(2-methoxyphenyl)piperazine (2.37 g, 12.35 mmol) in propanol (25 ml) were heated under reflux for 18 hours, cooled to room temperature, and evaporated in vacuo. The residue was triturated with acetone and ether to give the product (0.80 g) as a colourless powder, m.p. 155°-158°.

reactant | 2-(Phenylmethyl)propenoic acid | 12.35 mmol, 2.00 g | C1(=CC=CC=C1)CC(C(=O)O)=C | C10H10O2
reactant | 1-(2-methoxyphenyl)piperazine | 12.35 mmol, 2.37 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | propanol | 25 ml | C(CC)O | C3H8O
product | 2-{1- [4-(2-Methoxyphenyl)piperazinyl]methyl}-3-benzene-propanoic acid | 0.80 g | COC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=CC=C1CCC(=O)O | C21H26N2O3
